US06372917B1
a) 2-Bromo-5-methylbenzenesulfonyl chloride
40 g of 4-bromotoluene are slowly introduced into 250 ml of chlorosulfonic acid at −10° C. with stirring. The mixture is stirred at this temperature for 30 minutes, allowed to warm to 0° C. and poured onto excess ice. The product is filtered off with suction and washed with a little water. It is dried over P4O10 in vacuo and 63 g of a colorless solid are obtained, which is directly reacted further.

reactant | 4-bromotoluene | 40 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | chlorosulfonic acid | 250 ml | ClS(=O)(=O)O | ClHO3S
product | 2-Bromo-5-methylbenzenesulfonyl chloride | BrC1=C(C=C(C=C1)C)S(=O)(=O)Cl | C7H6BrClO2S
